US06124323
To 2-(6-benzyloxy-naphthalen-2-yloxy)-1-(4-benzyl-piperidin-1-yl)-ethanone (0.71 g, 1.53 mmol) in anhydrous tetrahydofuran (25 ml) was added BH3 ·SMe2 (0.62 ml, 6.20 mmol) and diisopropyl amine (0.214 ml, 1.53 mmol), and the solution was refluxed for 18 h under N2. The reaction was cooled in an ice bath and quenched with dropwise addition of methanol (15 ml). The solvent was evaporated, the solid washed with hexanes and evaporated. The solid was washed with hexanes, filtered, and air dried to give 0.69 g (100%) of 4-benzyl-1-[2-(6-benzyloxy-naphthalen-2-yloxy)-ethyl]-piperidine. 1H NMR (CDCl3) 7.64-7.56 (2H, m), 7.45 (2H, d, J=7.3), 7.39-7.003 (12H, m), 5.12 (2H, d, J=3.6), 4.55 (1H, t, J=5.4), 4.51 (1H, t, J=5.4), 3.62 (1H, t, J=5.4), 3.18-3.14 (3H, m), 2.92 (1H, m), 2.60-2.54 (3H, m), 2.15-2.0 (1H, m), 1.66-1.51 (4H, m).

reactant | 2-(6-benzyloxy-naphthalen-2-yloxy)-1-(4-benzyl-piperidin-1-yl)-ethanone | 1.53 mmol, 0.71 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1)OCC(=O)N1CCC(CC1)CC1=CC=CC=C1 | C31H31NO3
reactant | diisopropyl amine | 1.53 mmol, 0.214 ml | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-benzyl-1-[2-(6-benzyloxy-naphthalen-2-yloxy)-ethyl]-piperidine | 0.69 g, 100% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C31H33NO2
